US09353107B2
Step-ii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-(piperazin-1-yl)pyridin-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(6-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-3-yl)piperazine-1-carboxylate (800 mg, 1.130 mmol) was deprotected in TFA/DCM (3/10 ml) to afford 600 mg (87.4% yield) of the titled compound. MS: m/z=608.2 (M+1).

reactant | tert-butyl 4-(6-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-3-yl)piperazine-1-carboxylate | 1.130 mmol, 800 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=N3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C38H38FN7O4S
solvent | TFA DCM | 10 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-(piperazin-1-yl)pyridin-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 600 mg, 87.4% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=NC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C33H30FN7O2S
